US05576313
Step 1: Preparation of N-t-butoxycarbonyl isonipecotic acid
To a solution of isonipecotic acid (25.8 g, 200 mmol) in 1 M aqueous NaOH (223 ml, 223 mmol) was added a solution of di t-butyl dicarbonate in 200 ml THF over 1 hour. The resulting solution was stirred at room temp. overnight. The reaction mixture was then concentrated in vacuo to remove the THF and the residual aqueous solution extracted with hexane (2×125 ml). The hexane extracts were combined and back extracted with saturated NaHCO3 (2×100 ml). All of the basic aqueous solutions were combined and cooled to 0° C. and then acidified with a 15% aqueous KHSO4 solution to a pH of 1-2. The resulting thick slurry was extracted with EtOAc (4×), combined and washed with brine, dried over MgSO4 and concentrated in vacuo to afford the product as a white solid.

reactant | isonipecotic acid | 200 mmol, 25.8 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | NaOH | 223 mmol, 1 M, 223 ml | [OH-].[Na+]
reactant | di t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-t-butoxycarbonyl isonipecotic acid | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)CC1 | C11H19NO4
